US07666901B2
Preparation of Acetic acid 4-{[(2-dimethylamino-ethyl)-ethyl-amino]-methylene}-6,17-dihydroxy-1-methoxymethyl-10,13-dimethyl-3,7-dioxo-1,3,4,7,10,11,12,13,14,15,16,17-dodecahydro-2-oxa-cyclopenta[a]phenanthren-11-yl ester
17-Hydroxywortmannin (129 mg, 0.3 mmol) is dissolved in 5 ml methylene chloride and stirred at room temperature under nitrogen atmosphere as N,N-dimethyl-N′-ethyl-ethylenediamine (0.31 mmol, 56 μl) is added. The reaction solution turns orange immediately. After 30 min, the solvent is evaporated and the solid is recrystallized from ethyl acetate/hexane (3:1). After filtration, the solid is washed with hexane and dried under vacuum to yield 115 mg of the title compound as an orange powder. UV λmax (CH3CN/H2O): 250 nm, 320 nm, 397 nm; Positive ESI-MS: m/z 547 [M+H]+.

reactant | 17-Hydroxywortmannin | 0.3 mmol, 129 mg | CC(=O)O[C@@H]1C[C@]2([C@@H](CC[C@@H]2O)C3=C1[C@@]4(C=5C(=COC5C3=O)C(=O)O[C@@H]4COC)C)C | C23H26O8
reactant | N,N-dimethyl-N′-ethyl-ethylenediamine | 0.31 mmol, 56 μl | CN(CCNCC)C | C6H16N2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | Acetic acid 4-{[(2-dimethylamino-ethyl)-ethyl-amino]-methylene}-6,17-dihydroxy-1-methoxymethyl-10,13-dimethyl-3,7-dioxo-1,3,4,7,10,11,12,13,14,15,16,17-dodecahydro-2-oxa-cyclopenta[a]phenanthren-11-yl ester | 115 mg | CN(CCN(CC)C=C1C(OC(C2(C=3C(CC4(C(CCC4C3C(C(=C12)O)=O)O)C)OC(C)=O)C)COC)=O)C | C29H42N2O8
